US05330998
N-[(5-Methyl-2-phenyl-4-oxazolyl)methyl]-4-[(thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonamide
4-[(Thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonyl chloride (1.62 g, 5.31 mmol) in 25 mL of CH2Cl2 was cooled to 0° C. N-[(5-Methyl-2-phenyl-4-oxazolyl)methyl]amine (1.0 g, 5.31 mmol) in 10 mL of CH2Cl2 was added dropwise, followed by diisopropylethylamine(1.1 mL, 6.37 mmol) and the mixture stirred at 0° C. for 20 minutes,then at room temperature for 18 hours. The reaction mixture was diluted with 20 mL CH2Cl2, washed 3×25 mL 1N HCl, 1×25 mL 5% NaHCO3 and 2×25 mL brine, dried (MgSO4) and stripped to1.9 g of solids. The latter was flash chromatographed on silica gel using 3:40 ethyl acetate:hexane as eluant to yield 0.34 g of purified, present title product, mp 120°-122° C.

reactant | 4-[(Thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonyl chloride | 5.31 mmol, 1.62 g | S1C(NC(C1CC1=CC=C(C=C1)S(=O)(=O)Cl)=O)=O | C10H8ClNO4S2
reactant | N-[(5-Methyl-2-phenyl-4-oxazolyl)methyl]amine | 5.31 mmol, 1.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CN | C11H12N2O
reactant | diisopropylethylamine | 6.37 mmol, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(5-Methyl-2-phenyl-4-oxazolyl)methyl]-4-[(thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonamide | CC1=C(N=C(O1)C1=CC=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C21H19N3O5S2
